US08685980B2
Following General Procedure B, 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.264 mmol) and 1-(2-methoxyethyl)piperazine (42 mg, 0.291 mmol) gave 7-cyclopentyl-2-{5-[4-(2-methoxy-ethyl)-piperazin-1-ylmethyl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 71%) [following SiO2 chromatography, eluting with 0-10% (2M NH3 in MeOH)/dichloromethane]. MS (ESI) m/z 507.3 (M+H)+ (method A).

reactant | 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.264 mmol, 100 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C=O)N1C1CCCC1)C | C20H22N6O2
reactant | 1-(2-methoxyethyl)piperazine | 0.291 mmol, 42 mg | COCCN1CCNCC1 | C7H16N2O
product | 7-cyclopentyl-2-{5-[4-(2-methoxy-ethyl)-piperazin-1-ylmethyl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 2M, 100 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)CN2CCN(CC2)CCOC)N1C1CCCC1)C | C27H38N8O2
